US07700623B2
A dichloromethane (21 mL) solution of 3.9 mL of 2,2,2-trifluoroethanol and 4.3 mL of pyridine was added dropwise to a dichloromethane (83 mL) solution of 9.0 mL of trifluoromethanesulfonic anhydride under cooling with ice over a period of 25 minutes. Thereto was dropwise added a dichloromethane (60 mL) solution of 8.50 g of N-hydroxyphthalimide and 18.5 mL of N,N-diisopropylethylamine at the same temperature over a period of 45 minutes, which was then stirred for 22 hours. To the reaction mixture was added 100 mL of 1 mol/L hydrochloric acid. The organic layer was separated, washed sequentially with 1 mol/L hydrochloric acid and a saturated sodium chloride aqueous solution, and then dried with anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The resultant residue was purified using silica gel column chromatography (eluent; hexane:ethyl acetate=3:1) and washed with hexane to provide 4.43 g of N-(2,2,2-trifluoroethoxy)phthalimide as white solid form.

reactant | 2,2,2-trifluoroethanol | 3.9 mL | FC(CO)(F)F | C2H3F3O
reactant | trifluoromethanesulfonic anhydride | 9.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-hydroxyphthalimide | 8.50 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | N,N-diisopropylethylamine | 18.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | 1 mol/L, 100 mL | Cl | ClH
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 83 mL | ClCCl | CH2Cl2
solvent | pyridine | 4.3 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 21 mL | ClCCl | CH2Cl2
product | N-(2,2,2-trifluoroethoxy)phthalimide | 4.43 g | FC(CON1C(C=2C(C1=O)=CC=CC2)=O)(F)F | C10H6F3NO3
